US07148226B2
5-[(dimethylamino)methyl]-4-methyl-4H-1,2,4-triazole-3-thiol
N,N-dimethylglycine hydrazide hydrochloride (50 g, 0.263 mol) was stirred for 5 min in EtOH (525 mL). To this suspension was added Cs2CO3 (62.5 g, 0.192 mol) and the mixture was stirred at room temperature for 15 min. Methyl isothiocyanate (19.25 g, 0.263 mol) in EtOH (270 mL) was added to the pot and the reaction mixture was brought to reflux. The reflux condenser was removed and the EtOH was allowed to evaporate under atmospheric pressure (oil bath temperature 105–110° C.) over 3 h to give a purple paste. The reaction was removed from heat and allowed to sit at room temperature overnight (18 h), during which time the paste became a solid. The solid was mixed with CH2Cl2 (1.5 L) and filtered. The organic filtrate was concentrated under reduced pressure to give 31 g of a crude yellow oil. The oil was purified by column chromatography through silica gel, eluting with 4:1 CH2Cl2/MeOH to afford 15.3 g (34.9%) of the desired product.

reactant | N,N-dimethylglycine hydrazide hydrochloride | 0.263 mol, 50 g | CN(C)CC(=O)NN.Cl
reactant | Cs2CO3 | 0.192 mol, 62.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Methyl isothiocyanate | 0.263 mol, 19.25 g | CN=C=S | C2H3NS
solvent | EtOH | 525 mL | CCO | C2H6O
solvent | EtOH | 270 mL | CCO | C2H6O
product | 5-[(dimethylamino)methyl]-4-methyl-4H-1,2,4-triazole-3-thiol | 15.3 g, 34.9% | CN(C)CC=1N(C(=NN1)S)C | C6H12N4S
